US07635699B2
To a stirred solution of 1H-1,2,4-triazole-3,5-diamine (1.0 g, 10.1 mmol), methyl 3-oxobutanoate (1.17 g, 10.1 mmol), and 2,4-dichlorobenzaldehyde (1.35 g, 10.1 mmol) in THF (30 mL) and heptane (8 mL) was added piperidine (30 mg, 0.3 mmol) and the reaction was heated to 70° C. for 2 days. The reaction was concentrated to afford crude methyl 2-amino-7-(2,4-dichlorophenyl)-5-methyl-4,7-dihydro-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate as a light yellow solid.

reactant | 1H-1,2,4-triazole-3,5-diamine | 10.1 mmol, 1.0 g | N1N=C(N=C1N)N | C2H5N5
reactant | methyl 3-oxobutanoate | 10.1 mmol, 1.17 g | O=C(CC(=O)OC)C | C5H8O3
reactant | 2,4-dichlorobenzaldehyde | 10.1 mmol, 1.35 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | piperidine | 0.3 mmol, 30 mg | N1CCCCC1 | C5H11N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | heptane | 8 mL | CCCCCCC | C7H16
product | methyl 2-amino-7-(2,4-dichlorophenyl)-5-methyl-4,7-dihydro-[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate | NC1=NN2C(NC(=C(C2C2=C(C=C(C=C2)Cl)Cl)C(=O)OC)C)=N1 | C14H13Cl2N5O2
